US07902223B2
1 ml of trifluoroacetic anhydride is added to a solution of 200 mg (469 mmol) of N-[4-(2-oxo-2H-pyridin-1-yl)phenyl]-2-[isoquinolin-7-yl-amino)-4-methylpentanamide in 5 ml of dichloromethane, and the mixture is stirred at room temperature for 18 hours. The reaction mixture is partitioned between water and dichloromethane. The organic phase is evaporated, giving N-[4-(2-oxo-2H-pyridin-1-yl)phenyl]-2-[isoquinolin-7-yltrifluoroacetylamino]-4-methylpentanamide as a colourless solid; ESI 523.

reactant | trifluoroacetic anhydride | 1 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | N-[4-(2-oxo-2H-pyridin-1-yl)phenyl]-2-[isoquinolin-7-yl-amino)-4-methylpentanamide | 469 mmol, 200 mg | O=C1N(C=CC=C1)C1=CC=C(C=C1)NC(C(CC(C)C)NC1=CC=C2C=CN=CC2=C1)=O | C26H26N4O2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | N-[4-(2-oxo-2H-pyridin-1-yl)phenyl]-2-[isoquinolin-7-yltrifluoroacetylamino]-4-methylpentanamide | O=C1N(C=CC=C1)C1=CC=C(C=C1)NC(C(CC(C)C)N(C(C(F)(F)F)=O)C1=CC=C2C=CN=CC2=C1)=O | C28H25F3N4O3
